US06350749B1
To a solution of 7-(3-chlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.74 g) in ethyl acetate (10 ml) were added pyridine (0.21 g) and sulfuryl chloride (1.1 g) at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction solution was added ethyl acetate, and the mixture was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane) to give 7-(3,5-dichlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.56 g).

reactant | 7-(3-chlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.74 g | ClC1=C(SC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C14H12ClNOS
reactant | pyridine | 0.21 g | N1=CC=CC=C1 | C5H5N
reactant | sulfuryl chloride | 1.1 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 7-(3,5-dichlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.56 g | ClC1=C(SC(=C1)Cl)C1CC(C=2C(=CC=NC2C1)C)=O | C14H11Cl2NOS
